US07141586B2
2-(4-methylsulfanyl-phenoxy)-nicotinic acid methyl ester (10.36 g, 37.6 mmol) was dissolved in tetrahydrofuran (140 ml) and 1M aqueous lithium hydroxide solution (94 ml, 94 mmol) was added. The reaction was stirred at room temperature for 18 h and the tetrahydrofuran was removed under reduced pressure. The residue was acidified to pH1 with concentrated hydrochloric acid and the resulting precipitate was filtered, washed with water (2×10 ml), diethyether (3×10 ml) and dried in vacuo to give 2-(4-methylsulfanyl-phenoxy)-nicotinic acid (9.3 g) as a white solid.

reactant | 2-(4-methylsulfanyl-phenoxy)-nicotinic acid methyl ester | 37.6 mmol, 10.36 g | COC(C1=C(N=CC=C1)OC1=CC=C(C=C1)SC)=O | C14H13NO3S
reactant | lithium hydroxide | 94 mmol, 1M, 94 ml | [OH-].[Li+]
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 2-(4-methylsulfanyl-phenoxy)-nicotinic acid | 9.3 g | CSC1=CC=C(OC2=C(C(=O)O)C=CC=N2)C=C1 | C13H11NO3S
